Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PLASTIC
 
Allergies: 
vancomycin
 
Attending: ___
 
Chief Complaint:
left upper extremity lymphedema
 
Major Surgical or Invasive Procedure:
Left upper extremity lymphedema debulking

 
History of Present Illness:
(Per Dr. ___

History of Present Illness: 
Mr. ___ is a ___ year old male who presents with chronic
lymphedema. In brief, the patient developed lymphedema ___ years
ago. The patient states that he underwent a biopsy in the 
supraclavicular region to rule out lymphoma. This occurred ___ 
years ago. The patient was first diagnosed with lymphedema at 
the age of ___. Regarding the patient's lymphedema, the patient 
is a ___. and is right hand dominant. The patient's 
lymphedema affects his left upper extremity. The single worst 
area of involvement is forearm. The patient symptoms include 
infection with two cellulitis infections, inability to fit into 
clothing, tightness, Heaviness, Swelling - with elevation, the 
swelling does not change.
 
Past Medical History:
Hypothyroidism
 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
Gen: NAD, resting comfortably
Resp: Breathing comfortably on room air
Extrem: WWP finger tips. Compression garment in place, extremity 
elevated.
 
Pertinent Results:
___ 06:00AM BLOOD WBC-12.8* RBC-3.98* Hgb-13.1* Hct-37.9* 
MCV-95 MCH-32.9* MCHC-34.6 RDW-12.2 RDWSD-42.3 Plt ___
___ 06:00AM BLOOD Plt ___
 
Brief Hospital Course:
Mr. ___ was admitted to the plastic surgery service 
postoperatively. He was given Ancef (transitioned to Duricef at 
discharge) for antibiotics. On POD2 ___ changed his compression 
sleeve. He was voiding, ambulating, tolerating a regular diet, 
and had pain under control. He had no weight bearing 
restrictions with ___ on POD2. On POD2 he expressed a willingness 
to go home and was discharged with close follow-up.

 
Medications on Admission:
Losartan
Hydrochlorothiozide
Metoprolol

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H pain, HA, T>100 degrees  
2.  cefaDROXil 500 mg oral BID 
RX *cefadroxil 500 mg 1 capsule(s) by mouth twice a day Disp 
#*20 Capsule Refills:*0 
3.  OxyCODONE (Immediate Release) 2.5-5 mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*15 Tablet Refills:*0 
4.  Hydrochlorothiazide 25 mg PO DAILY  
5.  Levothyroxine Sodium 200 mcg PO DAILY  
6.  Losartan Potassium 100 mg PO DAILY  
7.  Metoprolol Tartrate 12.5 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
lymphedema

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Personal Care/Activity:
1. Keep compression garment in place
2. Activity of the arm is full. Ok to weight bear as tolerated
3. Keep arm elevated
4. You may resume your regular diet.   
5. DO NOT lift anything heavier than 5 pounds or engage in 
strenuous activity for 6 weeks following surgery.  .

Medications:  
1. Resume your regular medications unless instructed otherwise 
and take any new meds as ordered. 
2. Take antibiotic as prescribed (x10 days)
3. You may take your prescribed pain medication for moderate to 
severe pain. You may switch to Tylenol or Extra Strength Tylenol 

for mild pain as directed on the packaging. 
4. Take prescription pain medications for pain not relieved by 
tylenol. 
5. Take Colace, 100 mg by mouth 2 times per day, while taking 
the prescription pain medication. You may use a different 
over-the-counter stool softener if you wish.  
6. Do not drive or operate heavy machinery while taking any 
narcotic pain medication. You may have constipation when taking 
narcotic pain medications (oxycodone, percocet, vicodin, 
hydrocodone, dilaudid, etc.); you should continue drinking 
fluids, you may take stool softeners, and should eat foods that 
are high in fiber.  .

  Call the office IMMEDIATELY if you have any of the following:  

1. Signs of infection: fever with chills, increased redness, 
swelling, warmth or tenderness at the surgical site, or unusual 
drainage from the incision(s).  
2. A large amount of bleeding from the incision(s)
3. Fever greater than 101.5 oF  
4. Severe pain NOT relieved by your medication.

 Return to the ER if:   
* If you are vomiting and cannot keep in fluids or your 
medications.   
* If you have shaking chills, fever greater than 101.5 (F) 
degrees or 38 (C) degrees, increased redness, swelling or 
discharge from incision, chest pain, shortness of breath, or 
anything else that is troubling you.  
* Any serious change in your symptoms, or any new symptoms that 
concern you.  

 
Followup Instructions:
___